US07037908B2
N-(4-(trifluoromethyl)benzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and 4-trifluoromethylbenzylamine (88 mg, 0.5 mmol). The title product was obtained as an off-white solid (38.6 mg, 88% yield). 1HNMR (500 MHz, CDCl3) δ: 12.18 (1H, s), 7.88 (1H, t, J=4.58), 7.60 (2H, d, J=8.24 Hz), 7.53–7.47 (1H, m), 7.43 (2H, d J=8.24 Hz), 7.05 (2H, dd, J=8.24, 7.32 Hz), 4.65 (2H, d, J=6.41 Hz), 3.42 (3H, s). HRMS (ESI) calcd for C20H13F5N3O3 (M−H): 438.0877; found: 438.0878.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | 4-trifluoromethylbenzylamine | 0.5 mmol, 88 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-(4-(trifluoromethyl)benzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC(C1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2F)F)C=C1)(F)F | C20H14F5N3O3
